US06703392B2
2-(1-Benzyl-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl)-N-(1,2,3,4-tetrahydronaphthalen-1-yl)-acetamide:
prepared by reaction of 1-benzyl-6,7-dimethoxy-1,2,3,4-tetrahydro-isoquinoline and 2-bromoacetyl bromide with 1,2,3,4-tetrahydro-1-naphthylamine

reactant | 1-benzyl-6,7-dimethoxy-1,2,3,4-tetrahydro-isoquinoline | C(C1=CC=CC=C1)C1NCCC2=CC(=C(C=C12)OC)OC | C18H21NO2
reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | 1,2,3,4-tetrahydro-1-naphthylamine | C1(CCCC2=CC=CC=C12)N | C10H13N
product | 2-(1-Benzyl-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl)-N-(1,2,3,4-tetrahydronaphthalen-1-yl)-acetamide | C(C1=CC=CC=C1)C1N(CCC2=CC(=C(C=C12)OC)OC)CC(=O)NC1CCCC2=CC=CC=C12 | C30H34N2O3
